US07420083B2
To a solution of 2-amino-4-nitro-benzoic acid methyl ester (5.00 g, 25.5 mmol) in methylene chloride (75 mL) was added triethylamine (4.13 g, 40.8 mmol) followed by 3,5-bis-trifluoromethyl-benzoyl chloride (8.46 g, 30.6 mmol). This mixture was allowed to stir overnight at ambient temperature. Work-up of an aliquot of the reaction mixture revealed incomplete reaction. Additional 0.5 equivalents of the acid chloride (2.3 mL) and triethylamine (1.8 mL) were added and the mixture was refluxed overnight. The reaction mixture was allowed to cool and filtered. The filtrate was partitioned against brine, the layers were separated, and the aqueous layer was extracted with one portion of ethyl acetate. The organics were combined, dried over MgSO4, filtered and concentrated under reduced pressure. The resultant paste was dissolved in methylene chloride (25 mL) and the product was precipitated out by the addition of hexanes (175 mL). The precipitate was isolated by filtration and determined to be a mixture of the desired amide (mono-acylated) product and the carbamate (di-acylated) side product. The crude material was purified by flash chromatography through silica gel using ethyl acetate/hexanes (15/85 gradient to 30/70) to give 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-nitro-benzoic acid methyl ester (3.7 g, 33%) as an off-white solid. 1H NMR (400 MHz, CDCl3); δ 12.40 (bs, 1H), 9.78 (d, 1H), 8.50 (s, 2H), 8.31 (d, 1H), 8.11 (s, 1H), 8.00 (dd, 1H), 4.07 (s, 3H). 1H NMR (400 MHz, DMSO-d6); δ 9.04 (d, 1H), 8.43 (dd, 1H), 8.34 (s, 4H), 8.24 (s, 1H), 8.22 (s, 2H), 3.87 (s, 3H).

reactant | 2-amino-4-nitro-benzoic acid methyl ester | 25.5 mmol, 5.00 g | COC(C1=C(C=C(C=C1)[N+](=O)[O-])N)=O | C8H8N2O4
reactant | triethylamine | 40.8 mmol, 4.13 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-bis-trifluoromethyl-benzoyl chloride | 30.6 mmol, 8.46 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | carbamate | C(N)([O-])=O
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,5-bis-trifluoromethyl-benzoylamino)-4-nitro-benzoic acid methyl ester | 3.7 g, 33% | COC(C1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C17H10F6N2O5
